US05405852
EXAMPLE 1. 2-(8-Cyano-1-oxo-3-phenyl-1,2-dihydropyrido[3,4-b]indol2-yl)-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide
To a solution of 2-(8-cyano-1-oxo-3-phenyl-1,2-dihydropyrido[3,4-b]indol-2-yl)-N-(3,3,3-trifluoro-2-hydroxy-1-isopropylpropyl)acetamide (0.3 g) in dimethyl sulfoxide (2 mL) and toluene (2 mL) was added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (1.4 g) and dichloroacetic acid (0.23 mL), and the resulting solution was allowed to stir for 2 hours. The mixture was poured into ethyl acetate and was washed (1N hydrochloric acid, H2O), dried, and evaporated. The resulting material was chromatographed, with methanol:dichloromethane (3:97) as the eluent, to give the title compound (0.23 g) as a yellow solid; TLC: Rf =0.5, methanol:dichloromethane (5:95);

reactant | 2-(8-cyano-1-oxo-3-phenyl-1,2-dihydropyrido[3,4-b]indol-2-yl)-N-(3,3,3-trifluoro-2-hydroxy-1-isopropylpropyl)acetamide | 0.3 g | C(#N)C=1C=CC=C2C3=C(NC12)C(N(C(=C3)C3=CC=CC=C3)CC(=O)NC(C(C(F)(F)F)O)C(C)C)=O | C26H23F3N4O3
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.4 g | Cl.CN(CCCN=C=NCC)C
reactant | dichloroacetic acid | 0.23 mL | ClC(C(=O)O)Cl | C2H2Cl2O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethyl sulfoxide | 2 mL | CS(=O)C | C2H6OS
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(8-Cyano-1-oxo-3-phenyl-1,2-dihydropyrido[3,4-b]indol2-yl)-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide | 0.23 g | C(#N)C=1C=CC=C2C3=C(NC12)C(N(C(=C3)C3=CC=CC=C3)CC(=O)NC(C(C(F)(F)F)=O)C(C)C)=O | C26H21F3N4O3
